US06177452B1
A mixture of methyl 3-[4-(4-chlorophenyl)-2-oxo-4-oxazoline-5-yl]propionate (11.3 g), phosphorus oxychloride (18.6 g) and pyridine (3.2 ml) was stirred at 120 to 180° C. for 80 minutes. The reaction mixture was concentrated, and ice water was added thereto and then stirred at room temperature for 30 minutes. Then, this was extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried (MgSO4). The solvent was evaporated, and the crystals thus precipitated were collected by filtration. These were recrystallized from isopropyl ether to give colorless needles of methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate (8.56 g, 71%). m.p. 71-72° C.

reactant | methyl 3-[4-(4-chlorophenyl)-2-oxo-4-oxazoline-5-yl]propionate | 11.3 g | ClC1=CC=C(C=C1)C=1NC(OC1CCC(=O)OC)=O | C13H12ClNO4
reactant | phosphorus oxychloride | 18.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 3.2 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 8.56 g, 71% | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
